US09107916B2
A. [4-fluoro-2-[(4-fluorophenyl)methoxy]phenyl]methanol
The title compound was prepared from 5-fluoro-2-(hydroxymethyl)phenol and 4-(bromomethyl)-1-fluorobenzene according to the procedure for the preparation of Example 117, part A. 1H NMR (400 MHz, CDCl3): δ 2.07 (1H, t, J=6.8 Hz), 4.67 (2H, d, J=6.0 Hz), 5.05 (2H, s), 6.65-6.68 (2H, m), 7.07-7.11 (2H, m), 7.24-7.28 (1H, m), 7.37-7.41 (2H, m).

reactant | 5-fluoro-2-(hydroxymethyl)phenol | FC=1C=CC(=C(C1)O)CO | C7H7FO2
reactant | 4-(bromomethyl)-1-fluorobenzene | BrCC1=CC=C(C=C1)F | C7H6BrF
product | [4-fluoro-2-[(4-fluorophenyl)methoxy]phenyl]methanol | FC1=CC(=C(C=C1)CO)OCC1=CC=C(C=C1)F | C14H12F2O2
